US07470680B2
tert-butyl 4-(3-(2-fluorophenyl)-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate.
tert-Butyl 4-(1-(2,2-dimethoxyethyl)-3-(2-fluorophenyl)ureido)piperidine-1-carboxylate (1.39 g, 3267 μmol) was dissolved in a mixture of water (8.0 ml) and methanesulfonic acid (8.0 ml, 123281 μmol). Mixture was heated to 100° C. and held for 15 minutes. Mixture was cooled to room temperature. Reaction was neutralized with sodium carbonate (6.15 g, 58025 μmol). Mixture was diluted with aqueous sodium bicarbonate. 1,4-Dioxane (10 ml) was added to the mixture followed by di-tert-butyl dicarbonate (880 mg, 4032 μmol). Reaction stirred vigorously at room temperature for 3 hours. Reaction was quenched with aqueous ammonium chloride. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as clear colorless oil in 64% yield. MS (M−C4H10O+H)−=288.1.

reactant | tert-Butyl 4-(1-(2,2-dimethoxyethyl)-3-(2-fluorophenyl)ureido)piperidine-1-carboxylate | 3267 μmol, 1.39 g | COC(CN(C(=O)NC1=C(C=CC=C1)F)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C21H32FN3O5
reactant | methanesulfonic acid | 123281 μmol, 8.0 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | 58025 μmol, 6.15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 4032 μmol, 880 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 8.0 ml | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-Dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(3-(2-fluorophenyl)-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 64% yield | FC1=C(C=CC=C1)N1C(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H24FN3O3
